US05364875
Preparation of 6-[3-[[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]methyl]benzylthio]-purine
A solution of 4,5-bis(4-methoxyphenyl)-2-mercapto-1H-imidazole (3.00 g, 9.60 mmol), 6-mercaptopurine (1.63 g, 9.60 mmol) a,a'-dibromoxylene (2.54 g, 9.60 mmol), and potassium carbonate (3.32 g, 24.0 mmol) and in 5:1 tetrahydrofuran-dimethylformamide (12 mL) was heated to reflux for 20 hours, then cooled. It was poured into ethyl acetate (150 mL), and washed with water (4×150 mL). The aqueous phases were back-extracted in sequence with ethyl acetate. The extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was separated by flash chromatography (ethyl acetate) to afford the title product as a crystalline solid, m.p. 129°-130° C. (1.64 g, 2.89 mmol, 30%). 1H NMR (CDCl3): 8.63 (1H, s); 8.02 (1H, s); 7.30 (4H, d, J=8.8 Hz); 7.23 (1H, s); 7.16 (1H, d, J=8 Hz); 6.99 (1H, t, J=8 Hz); 6.81 (1H, d, J=8 Hz); 6.71 (4H, d, J=8.8 Hz); 4.44 (2H, s); 4.02 (2H, s); 3.69 (6H, s). Elemental analysis: calculated C 63.58, H 4.62, N 14.83; observed C 63.25, H 4.55, N 14.72.

reactant | 4,5-bis(4-methoxyphenyl)-2-mercapto-1H-imidazole | 9.60 mmol, 3.00 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | 6-mercaptopurine | 9.60 mmol, 1.63 g | SC1=C2NC=NC2=NC=N1 | C5H4N4S
reactant | potassium carbonate | 24.0 mmol, 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran dimethylformamide | 12 mL | O1CCCC1.CN(C=O)C
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 6-[3-[[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]methyl]benzylthio]-purine | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCC=1C=C(CSC2=C3NC=NC3=NC=N2)C=CC1 | C30H26N6O2S2
